US04906634
N-Ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-N'-(2-propenyl)-1,2-ethanediamine
In a manner similar to Preparation 12 react N-Ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-1,2-ethanediamine with allyl bromide to provide the title compound.

reactant | N-Ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-1,2-ethanediamine | C(C)N(CCNC1=CC=C(C=C1)[N+](=O)[O-])CCCCC(C)C | C17H29N3O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | N-Ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-N'-(2-propenyl)-1,2-ethanediamine | C(C)N(CCN(CC=C)C1=CC=C(C=C1)[N+](=O)[O-])CCCCC(C)C | C20H33N3O2
